US06833366B1
m-Methoxybenzyl phenyl ketone
A mixture of m-anisaldehyde (29.37 g, 21.57 mmol) and phenylacetic acid (29.37 g, 21.57 mmol) in acetic anhydride (200 mL) was stirred with triethylamine (30 mL). The reaction mixture was heated at reflux for 4 h, then cooled to 80-90° C., then water (500 mL) was added slowly. Oil separated, which upon stirring and cooling produced a light orange solid. The solid was filtered, washed with water and dried to afford 35 g (64%) of the desired 2-phenyl-m-methoxycinnamic acid. Triethylamine (17 mL) was added to a mixture of 2-phenyl-m-methoxycinnamic acid (30.0 g, 118.0 mmol) and diphenylphosphorylazide (28 mL) in toluene (200 mL) at 0° C. After the reaction had been complete (3 h), the reaction mixture was quenched with concentrated HCl (20 mL) and extracted with ether (200 mL). The organic layer was concentrated and the residue was stirred further with Conc. HCl (100 mL) and dioxane (100 mL) for 24 h. The reaction mixture was diluted with water (400 mL) and was extracted with ether (3×300 mL). The ether layer was dried and concentrated to afford 10 g (38%) of the desired product. 1H NMR (CDCl3) δ 7.99-8.01 (m, 2H), 7.42-7.54 (m, 5H), 6.77-6.85 (m, 3H), 4.24 (s, 2H), 3.77 (s, 3H).

reactant | Triethylamine | 17 mL | C(C)N(CC)CC | C6H15N
reactant | 2-phenyl-m-methoxycinnamic acid | 118.0 mmol, 30.0 g | C1(=CC=CC=C1)C1=C(C=CC(=O)O)C=CC=C1OC | C16H14O3
reactant | diphenylphosphorylazide | 28 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | m-Methoxybenzyl phenyl ketone | 10 g, 38% | C1(=CC=CC=C1)C(=O)CC1=CC(=CC=C1)OC | C15H14O2
